US07368453B2
Step 2. Synthesis of 1-(1,1-Dimethylethyl) 2-ethyl(2S,3S)-3-methyl-1,2-pyrrolidinedicarboxylate
Ethyl(3S)-3-methyl-L-prolinate (0.837 g, 4.32 mmol), bis(1,1-dimethylethyl) dicarbonate (0.942 g, 4.32 mmol), and triethylamine (1.5 mL, 10.8 mmol) were heated in an approximately 2:1 mixture of THF and ethanol at 75° C. for 16 hours. The reaction was allowed to cool to room temperature, then diluted with water. The crude mixture was extracted 2× with ethyl acetate. The organic layers were washed with 1N NaOH, dried over MgSO4, and concentrated under reduce pressure to give the title compound (855 mg, 3.3 mmol) as a clear oil. 1H NMR (400 MHz, DMSO-D6) δ ppm 1.1 (d, J=6.8 Hz, 3 H) 1.2 (m, 3 H) 1.3 (m, 9 H) 1.5 (m, 1 H) 1.9 (m, 1 H) 2.2 (m, 1 H) 3.2 (m, 1 H) 3.4 (m, 1 H) 3.6 (m, 1 H) 4.1 (m, 2 H).

reactant | Ethyl(3S)-3-methyl-L-prolinate | 4.32 mmol, 0.837 g | C[C@@H]1[C@H](NCC1)C(=O)OCC | C8H15NO2
reactant | bis(1,1-dimethylethyl) dicarbonate | 4.32 mmol, 0.942 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 10.8 mmol, 1.5 mL | C(C)N(CC)CC | C6H15N
reactant | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 1-(1,1-Dimethylethyl) 2-ethyl(2S,3S)-3-methyl-1,2-pyrrolidinedicarboxylate | 3.3 mmol, 855 mg | C[C@@H]1[C@H](N(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C13H23NO4
